US06001331
A mixture of 3-heptyl-2-methylbenzothiazolium iodide (0.50 g, 1.33 mmol) and 4-dimethylamino-1-naphthaldehyde (0.40 g, 2.01 mmol) in 5 mL of acetic anhydride under nitrogen was heated. Upon refluxing, the mixture turned purple and all solids seemed to be in solution. The solution was refluxed for 15 minutes and on cooling, solid formed. The mixture was filtered and washed with ethyl acetate to give (E)-2-[2-(4-dimethylaminonaphthalen-1-yl)vinyl]-3-heptylbenzothiazol-3-ium iodide as a dark brown solid, mp 195-197° C.

reactant | 3-heptyl-2-methylbenzothiazolium iodide | 1.33 mmol, 0.50 g | [I-].C(CCCCCC)[N+]1=C(SC2=C1C=CC=C2)C
reactant | 4-dimethylamino-1-naphthaldehyde | 2.01 mmol, 0.40 g | CN(C1=CC=C(C2=CC=CC=C12)C=O)C | C13H13NO
solvent | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-2-[2-(4-dimethylaminonaphthalen-1-yl)vinyl]-3-heptylbenzothiazol-3-ium iodide | [I-].CN(C1=CC=C(C2=CC=CC=C12)/C=C/C=1SC2=C([N+]1CCCCCCC)C=CC=C2)C | InChI=1S/C28H33N2S.HI/c1-4-5-6-7-12-21-30-26-15-10-11-16-27(26)31-28(30)20-18-22-17-19-25(29(2)3)24-14-9-8-13-23(22)24;/h8-11,13-20H,4-7,12,21H2,1-3H3;1H/q+1;/p-1
